US08808703B2
Step 2: diethyl 3-aminopropylphosphonate
Diethyl 3-azidopropylphosphonate (1 eq) was dissolved in EtOH (0.1 M). Pd(OH)2 (0.02 eq) was added to the reaction. Hydrogen gas was introduced via a balloon and the reaction was stirred for 3 hours. The reaction was stirred for for a further 2 hours at room temperature and filtered through Celite and washed with methanol. The solvent was removed en vaccuo and the crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% MeOH in DCM with 0.5% NH3 in MeOH to give the product as colorless oil.

reactant | Diethyl 3-azidopropylphosphonate | 1 eq | N(=[N+]=[N-])CCCP(OCC)(OCC)=O | C7H16N3O3P
reactant | Hydrogen | [H][H] | H2
solvent | EtOH | 0.1 M | CCO | C2H6O
catalyst | Pd(OH)2 | 0.02 eq | [OH-].[OH-].[Pd+2]
product | diethyl 3-aminopropylphosphonate | NCCCP(OCC)(OCC)=O | C7H18NO3P
